US09371320B2
E) 4-(7-cyano-1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide
To a solution of 4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide (53.3 mg) in acetonitrile (10 mL) were added sodium iodide (43.5 mg) and chloro(trimethyl)silane (0.147 mL), and the mixture was stirred at 60° C. for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was washed successively with water and ethyl acetate to give the title compound (50.3 mg).

reactant | 4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 53.3 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)N | C18H17N5O2S
reactant | sodium iodide | 43.5 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.147 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(7-cyano-1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 50.3 mg | C(#N)C=1C2=C(C(NC1)=O)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)N | C17H15N5O2S
